US05866573
3-[2-(2-Pyridyl)ethylamino]-6-Methyl-1-(2,5-Dichlorobenzyl-acetamido)-2-Pyrazinone
The title compound was prepared from 3-[2-(2-pyridyl)ethylamino]-6-methyl-1-carboxymethylpyrazinone and 2,5-dichlorobenzylamine using the procedure of EXAMPLE V, Step F, mp 188°-191° C.: MS (FAB) 446 (M+1)+.

reactant | 3-[2-(2-pyridyl)ethylamino]-6-methyl-1-carboxymethylpyrazinone | N1=C(C=CC=C1)CCNC=1C(N(C(=CN1)C)CC(=O)O)=O | C14H16N4O3
reactant | 2,5-dichlorobenzylamine | ClC1=C(CN)C=C(C=C1)Cl | C7H7Cl2N
product | 3-[2-(2-Pyridyl)ethylamino]-6-Methyl-1-(2,5-Dichlorobenzyl-acetamido)-2-Pyrazinone | N1=C(C=CC=C1)CCNC=1C(N(C(=CN1)C)NC(CCC1=C(C=CC(=C1)Cl)Cl)=O)=O | C21H21Cl2N5O2
